US06544990B2
Preparation 4 ethyl 4-hydroxy-8-iodo-6-(tetrahydro-2H-pyran-4-ylmethyl)-3-quinolinecarboxylate
A mixture of 2-iodo-4-(tetrahydro-2H-pyran-4-ylmethyl)aniline (1.0 g) and diethyl ethoxymethylenemalonate (0.70 mL) is heated at 130° C. for 1 h. The mixture is cooled to room temperature. Diphenyl ether (20 mL) is added and the reaction is heated to 250° C. for 1 h. The mixture is cooled and the resulting solid is collected and washed with hexanes. The crude product is chromatographed (Biotage flash 40M, eluent 2% MeOH/CH2Cl2) to yield 0.80 g (58%) of the desired product as an off-white solid.

reactant | 2-iodo-4-(tetrahydro-2H-pyran-4-ylmethyl)aniline | 1.0 g | IC1=C(N)C=CC(=C1)CC1CCOCC1 | C12H16INO
reactant | diethyl ethoxymethylenemalonate | 0.70 mL | C(C)OC=C(C(=O)OCC)C(=O)OCC | C10H16O5
solvent | Diphenyl ether | 20 mL | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
product | ethyl 4-hydroxy-8-iodo-6-(tetrahydro-2H-pyran-4-ylmethyl)-3-quinolinecarboxylate | 0.80 g, 58% | OC1=C(C=NC2=C(C=C(C=C12)CC1CCOCC1)I)C(=O)OCC | C18H20INO4
